US06586483B2
Preparation of Isooctylsilane Surface-Modified Silica Nanoparticles
Silica nanoparticles surface modified with isooctyltrimethoxysilane were prepared as follows: 61.42 g BS1316 isooctyltrimethoxysilane (Wacker Silicones Corp., Adrian, Mich.), 1940 g 1-methoxy-2-propanol and 1000 g NALCO 2326 colloidal silica were combined in a 1 gallon glass jar. The mixture was shaken to ensure mixing and then placed in an oven at 80° C. overnight. The mixture was then dried in a flow through oven at 150° C. to produce a white particulate solid.

reactant | isooctyltrimethoxysilane | C(CCCCC(C)C)[Si](OC)(OC)OC | C11H26O3Si
reactant | 1-methoxy-2-propanol | 1940 g | COCC(C)O | C4H10O2
product | Isooctylsilane | C(CCCCC(C)C)[SiH3] | C8H20Si
